US06747047B2
Step C: Preparation of 1-Phenyl-3-(trifluoromethyl)-1H-pyrazole-5-carbonyl chloride
A sample of crude 1-phenyl-3-(trifluoromethyl)pyrazole-5-carboxylic acid (4.13 g, 16.1 mmol) was dissolved in methylene chloride (45 mL). The solution was treated with oxalyl chloride (1.80 mL, 20.6 mmol), followed by N,N-dimethylformamide (0.010 mL, 0.13 mmol). Off-gassing began shortly after adding the N,N-dimethylformamide catalyst. The reaction mixture was stirred for ˜20 minutes under ambient conditions, then was heated to reflux for a period of 35 minutes. Volatiles were removed by stripping the reaction mixture on a rotary evaporator at a bath temperature of 55° C. The product consisted of 4.43 g of a light-yellow oil. The only impurity observed by 1H NMR was N,N-dimethylformamide.

reactant | 1-phenyl-3-(trifluoromethyl)pyrazole-5-carboxylic acid | 16.1 mmol, 4.13 g | C1(=CC=CC=C1)N1N=C(C=C1C(=O)O)C(F)(F)F | C11H7F3N2O2
reactant | oxalyl chloride | 20.6 mmol, 1.80 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N,N-dimethylformamide | 0.13 mmol, 0.010 mL | CN(C=O)C | C3H7NO
solvent | methylene chloride | 45 mL | C(Cl)Cl | CH2Cl2
catalyst | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 1-Phenyl-3-(trifluoromethyl)-1H-pyrazole-5-carbonyl chloride | C1(=CC=CC=C1)N1N=C(C=C1C(=O)Cl)C(F)(F)F | C11H6ClF3N2O
